US08022222B2
2-(3-(2-(4-Methylthiazol-2-ylamino)pyridin-4-yloxy)phenoxy)acetic acid hydrochloride
tert-Butyl 2-(3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)phenoxy)acetate (0.530 g, 1.28 mmol) was dissolved in dichloromethane (5 mL), and trifluoroacetic acid (5 mL) was added. The reaction mixture was stirred at room temperature for one hour, the concentrated. The TFA salt was dissolved in ether (15 mL). 1M HCl in ether (6 mL) was added, and the solids were collected by filtration, washed with hexanes and dried to afford the desired product as a white solid. 1H NMR (d6-DMSO) δ 11.85 (bs, 1H), 8.25 (d, 1H), 7.41 (t, 1H), 6.88 (d, 1H), 6.80-6.83 (m, 2H), 6.67-6.70 (m, 2H), 4.72 (s, 2H), 2.26 (s, 3H).

reactant | tert-Butyl 2-(3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)phenoxy)acetate | 1.28 mmol, 0.530 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C21H23N3O4S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1M | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | ether | 6 mL | CCOCC | C4H10O
product | 2-(3-(2-(4-Methylthiazol-2-ylamino)pyridin-4-yloxy)phenoxy)acetic acid hydrochloride | Cl.CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(OCC(=O)O)C=CC1 | InChI=1S/C17H15N3O4S.ClH/c1-11-10-25-17(19-11)20-15-8-14(5-6-18-15)24-13-4-2-3-12(7-13)23-9-16(21)22;/h2-8,10H,9H2,1H3,(H,21,22)(H,18,19,20);1H
